US07855215B2
5-(6-Amino-pyrimidin-4-yloxy)-2,3-dihydro-indole-1-carboxylic acid [4-(4-ethyl-piperazin-1-ylmethyl)-phenyl]-amide
Hydrogenation of 0.38 mMol 5-(6-azido-pyrimidin-4-yloxy)-2,3-dihydro-indole-1-carboxylic acid [4-(4-ethyl-piperazin-1-ylmethyl)-phenyl]-amide in 10 ml THF in the presence of 70 mg Pd/C 10%, filtration, concentration of the filtrate, chromatography (Combi Flash; CH2Cl2/MeOH/NH3conc. 98:2:0→90:10:1) and crystallization from DIPE gives the title compound: MS: [M+1]+=474; TLC(EtOAc/EtOH/NH3conc. 80:20:1): Rf=0.09; Anal.: C,H,N.

reactant | 5-(6-azido-pyrimidin-4-yloxy)-2,3-dihydro-indole-1-carboxylic acid [4-(4-ethyl-piperazin-1-ylmethyl)-phenyl]-amide | 0.38 mMol | C(C)N1CCN(CC1)CC1=CC=C(C=C1)NC(=O)N1CCC2=CC(=CC=C12)OC1=NC=NC(=C1)N=[N+]=[N-] | C26H29N9O2
reactant | CH2Cl2 MeOH | C(Cl)Cl.CO
solvent | THF | 10 ml | C1CCOC1 | C4H8O
catalyst | Pd/C | 70 mg | [Pd] | Pd
product | 5-(6-Amino-pyrimidin-4-yloxy)-2,3-dihydro-indole-1-carboxylic acid [4-(4-ethyl-piperazin-1-ylmethyl)-phenyl]-amide | C(C)N1CCN(CC1)CC1=CC=C(C=C1)NC(=O)N1CCC2=CC(=CC=C12)OC1=NC=NC(=C1)N | C26H31N7O2
